US04036979
Preparation of N-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)-4-piperidinethiocarboxamide
In 50 ml. of tetrahydrofuran, 5.85 grams of 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isothiocyanate is stirred and 2.81 grams of piperidine is added. An exotherm is observed and a temperature rises to about 40° C. to 50° C. After 2.5 hours, the mixture is heated at reflux temperature for 3.5 hours. After stirring overnight, the mixture is evaporated to dryness to afford a sticky yellow-brown solid. Ether is added to this material and the off-white, insoluble product is collected. The crude product, 5.25 grams, melts at 102° C. to

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isothiocyanate | 5.85 grams | S1C2=C(C=C1)C(CCC2)N=C=S | C9H9NS2
reactant | piperidine | 2.81 grams | N1CCCCC1 | C5H11N
solvent | Ether | CCOCC | C4H10O
product | N-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)-4-piperidinethiocarboxamide | S1C2=C(C=C1)C(CCC2)NC(=S)C2CCNCC2 | C14H20N2S2
